US07211601B2
(2S,4EZ)-N-(3-amino-3-oxopropyl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and 3-aminopropanamide, the title compound was obtained in 71% purity by HPLC. MS(ESI+): m/z=409.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 3-aminopropanamide | NCCC(=O)N | C3H8N2O
product | (2S,4EZ)-N-(3-amino-3-oxopropyl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | NC(CCNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C22H24N4O4
